US07691879B2
1,6-dimethoxy-4-phenylisoquinoline-3-carbonitrile
To a solution of 1-chloro-6-methoxy-4-phenylisoquinoline-3-carbonitrile (50 mg) in 1 mL of DMF was added NaOMe (3 equivalents). The reaction was stirred at room temp overnight, then concentrated and purified by flash chromatography (30% EtOAc/hexanes). Trituration (ether/hexanes) of the concentrated material gave the titled compound.

reactant | 1-chloro-6-methoxy-4-phenylisoquinoline-3-carbonitrile | 50 mg | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C17H11ClN2O
reactant | NaOMe | 3 equivalents | C[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1,6-dimethoxy-4-phenylisoquinoline-3-carbonitrile | COC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C18H14N2O2
